US08563717B2
6-Amino-2-(butyloxy)-9-[2-(1-ethyl-3-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 14 from 2-(butyloxy)-8-(methyloxy)-9-[2-(3-piperidinyl)ethyl]-9H-purin-6-amine and 1-iodoethane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[2-(3-piperidinyl)ethyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1CNCCC1)OC)N | C17H28N6O2
reactant | 1-iodoethane | ICC | C2H5I
product | 6-Amino-2-(butyloxy)-9-[2-(1-ethyl-3-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCC1CN(CCC1)CC)=O | C18H30N6O2
